US05990101
3-(aminosulfonyl)aminomethylimidazo[5,1-b]thiazole
A 770 mg potin of 3-aminomethylimidazo[5,1-b]thiazole was dissolved in 15 ml of DMF, and 4.78 ml of N,N-diisopropylethylamine and 1.04 g of sulfamoyl chloride were further added at -60° C., followed by stirring at -30 to -20° C. for 4 hours. The reaction solution was concentrated under reduced pressure and then dissolved in 30 ml of water, and the solution was adjusted to pH 7.5 with an aqueous sodium hydrogencarbonate solution. After purification by Diaion HP-20 Resin, crystallization was carried out from methanol to obtain 636 mg of the title compound.

reactant | 3-aminomethylimidazo[5,1-b]thiazole | NCC=1N2C(SC1)=CN=C2 | C6H7N3S
reactant | N,N-diisopropylethylamine | 4.78 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sulfamoyl chloride | 1.04 g | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-(aminosulfonyl)aminomethylimidazo[5,1-b]thiazole | 636 mg | NS(=O)(=O)NCC=1N2C(SC1)=CN=C2 | C6H8N4O2S2
